US05708007
N,N-DIETHYL -4-METHOXY-2-FORMYL-3-(4-PYRIDINYLMETHOXY)BENZAMIDE
A suspension of N,N-diethyl-4-methoxy-3-(4-pyridinylmethoxy)benzamide (19.0 g), 4-picolylchloride hydrochloride (15.0 g), K2CO3 (60.0 g) and potassium iodide (5.0 g) in DMF (500 mol) was stirred at 80° C. for 2 hours and then heated to 150° C. for 15 minutes. After cooling to room temperature, the mixture was poured into 3 l of water, and extracted twice with ethyl acetate. The combined organic phases were washed with 5% Na2CO3, dried (Na2SO4) and concentrated in vacuo. High performance liquid chromatography (silica gel, eluting with 1:1 heptane:ethyl acetate) afforded 6.5 g of the product which was crystallized from heptane/acetone, m.p. 117°-118° C.

reactant | N,N-diethyl-4-methoxy-3-(4-pyridinylmethoxy)benzamide | 19.0 g | C(C)N(C(C1=CC(=C(C=C1)OC)OCC1=CC=NC=C1)=O)CC | C18H22N2O3
reactant | 4-picolylchloride hydrochloride | 15.0 g | Cl.N1=CC=C(C=C1)CCl
reactant | K2CO3 | 60.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 5.0 g | [I-].[K+]
reactant | DMF | 500 mol | CN(C)C=O | C3H7NO
solvent | water | 3 l | O | H2O
product | N,N-DIETHYL -4-METHOXY-2-FORMYL-3-(4-PYRIDINYLMETHOXY)BENZAMIDE | 6.5 g | C(C)N(C(C1=C(C(=C(C=C1)OC)OCC1=CC=NC=C1)C=O)=O)CC | C19H22N2O4
